US07511041B2
2-Amino-4,5-dimethoxybenzonitrile (5.0 g, 28 mmol) was added to ethylenediamine (7.9 g, 131 mmol) at room temperature. The resulting solution was warmed to 40, and a catalitic amount of diphosphorus pentasulfide (50 mg) was added. The mixture was heated to 80-90, and the stirring was continued overnight. The reaction mixture was diluted with water, and the resulting precipitate was collected by filtration to give 2-(4,5-dihydro-1H-imidazol-2-yl)-4,5-dimethoxyaniline (5.1 g, 82%) as a solid.

reactant | 2-Amino-4,5-dimethoxybenzonitrile | 28 mmol, 5.0 g | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
reactant | ethylenediamine | 131 mmol, 7.9 g | C(CN)N | C2H8N2
solvent | water | O | H2O
catalyst | diphosphorus pentasulfide | 50 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 2-(4,5-dihydro-1H-imidazol-2-yl)-4,5-dimethoxyaniline | 5.1 g, 82% | N1C(=NCC1)C1=C(N)C=C(C(=C1)OC)OC | C11H15N3O2
